US05696129
A solution of 2-bromo-3-hydroxypyridine (10 g) in dry THF (100 ml) was treated with 1 equivalent of sodium hydride (80% in oil) (1.72 g) and stirred at room temperature under nitrogen for 0.75 hours. Propargyl bromide (80% in toluene) (19.2 ml) was added and the mixture was heated under reflux for 88 hours. After cooling, the solvent was evaporated under reduced pressure and the residue partitioned between 5% aqueous NaOH and EtOAc. The organic layer was removed, dried (Na2SO4) and concentrated in vacuo to give a pale yellow gum. This was purified by column chromatography on silica using dichloromethane as eluant to give 2-bromo-3-propargyloxypyridine as an off white solid 6 g.

reactant | 2-bromo-3-hydroxypyridine | 10 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | sodium hydride | 1.72 g, 1 equivalent | [H-].[Na+]
reactant | Propargyl bromide | 19.2 ml | C(C#C)Br | C3H3Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-bromo-3-propargyloxypyridine | BrC1=NC=CC=C1OCC#C | C8H6BrNO
